US07977358B2
In analogy to the procedure described in example 14C] but with 2.8 eq of K3PO4, [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone and trans-2-(4-chlorophenyl)vinylboronic acid gave (5-{3-[2-(4-chloro-phenyl)-vinyl]-phenyl}-1,4-dimethyl-1H-pyrazol-3-yl)-(3-diethylamino-pyrrolidin-1-yl)-methanone in 67% yield as light brown oil. MS: 477.0 (MH+, 1 Cl).

reactant | K3PO4 | 2.8 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | BrC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
reactant | trans-2-(4-chlorophenyl)vinylboronic acid | ClC1=CC=C(C=C1)/C=C/B(O)O | C8H8BClO2
product | (5-{3-[2-(4-chloro-phenyl)-vinyl]-phenyl}-1,4-dimethyl-1H-pyrazol-3-yl)-(3-diethylamino-pyrrolidin-1-yl)-methanone | 67% yield | ClC1=CC=C(C=C1)C=CC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C28H33ClN4O
